US05840732
ii) Synthesis of 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione hydrochloride
To a methanol solution of 26 mg (0.062 mmol) of 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione, 0.02 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring, after which the solvent was distilled off, to yield 29 mg (quant, yellow oily substance) of the desired product.

reactant | 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione | 0.062 mmol, 26 mg | C1(=CC=CC=C1)CCC=C1C(N(C(O1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C23H23N3O3S
reactant | hydrochloric acid ethyl acetate | 4N, 0.02 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione hydrochloride | Cl.C1(=CC=CC=C1)CCC=C1C(N(C(O1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C23H23N3O3S.ClH/c27-22-19(11-6-10-18-8-2-1-3-9-18)29-23(28)26(22)15-4-5-17-30-21-13-7-12-20-24-14-16-25(20)21;/h1-3,7-9,11-14,16H,4-6,10,15,17H2;1H
